US04306065
2-Phenyl-4-[4-(2-pyridinyl)-1-piperazinyl]quinazoline.
A mixture containing 9.6 g (0.04 mole) of 2-phenyl-4-chloroquinazoline, 6.4 g. (0.04 mole) of 1-(2-pyridyl) piperazine and 250 ml of isopropanol was refluxed for 4 hrs. The resulting reaction mixture was filtered after cooling to room temperature. The crystalline solid was dissolved in 400 ml of 3N hydrochloric acid and the aqueous acidic liquid was washed with ether. The aqueous layer was adjusted to pH=7.5 which precipitated crystalline solid. This acidification and basification were repeated once. Yield of product was 6.9 g, m.p. 164°-166° C. (air dried).

reactant | 2-phenyl-4-chloroquinazoline | 0.04 mole, 9.6 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C14H9ClN2
reactant | 1-(2-pyridyl) piperazine | 0.04 mole | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 2-Phenyl-4-[4-(2-pyridinyl)-1-piperazinyl]quinazoline | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1CCN(CC1)C1=NC=CC=C1 | C23H21N5
